US07579353B2
5-bromo-2-(4-trifluoromethylphenyl)pyrimidine
5-bromo-2-iodopyrimidine (250 mg), 4-trifluoromethylphenylboronic acid (167 mg), bis(triphenylphosphine)palladium(II) chloride (22 mg) and Na2CO3 (2.1 ml, 1M in H2O) in argon saturated acetonitrile (2.1 ml) was heated under microwave conditions (150° C., 10 minutes). The conversion was monitored and analyzed by HPLC. The crude reaction mixture was concentrated to dryness, then diluted with CH2Cl2, washed with water (3×10 ml), dried over Na2SO4, concentrated under vacuum and purified by chromatography column using CH2Cl2-hexane 1:10 as eluent to give 160 mg of the desired product as a white solid.

reactant | 5-bromo-2-iodopyrimidine | 250 mg | BrC=1C=NC(=NC1)I | C4H2BrIN2
reactant | 4-trifluoromethylphenylboronic acid | 167 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 1M, 2.1 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 22 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-2-(4-trifluoromethylphenyl)pyrimidine | 160 mg | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C11H6BrF3N2
